US04665090
Step A: Preparation of 2-(4-hydroxybutyl)thiophene
To a cool (0°) solution of 10.0 g of 4-thienylbutyric acid (58.8 mmol) in 60 ml of dry THF was added 59 ml of a 1M solution of borane in THF, dropwise with stirring over one hour. The mixture was stirred for an additional 5 hours. The reaction mixture was poured onto 200 g of ice. This mixture was acidified with 2N HCl and the product extracted into ethyl acetate. The extract was washed with brine, dried (Na2SO4) and evaporated to give 8.5 g of a colorless oil (93%). 1H-NMR (CDCl3)δ7.0 (1H, t); 6.75 (2H, m); 3.5 (2H, t); 2.75 (2H, t); 1.6 (4H, m).

reactant | 4-thienylbutyric acid | 58.8 mmol, 10.0 g | S1C(=CC=C1)CCCC(=O)O | C8H10O2S
reactant | borane | B | BH3
reactant | HCl | 2N | Cl | ClH
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 2-(4-hydroxybutyl)thiophene | 8.5 g, 93% | OCCCCC=1SC=CC1 | C8H12OS
